US06200976B1
b. 4-{[6-(1-carboxy-cyclopropyl)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-benzamidine
300 mg (0.76 mmol) of 4-{[6-(1-carboxy-cyclopropyl)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-N-hydroxybenzamidine are dissolved in 30 ml of 90% acetic acid and after the addition of 400 mg palladium on activated charcoal hydrogenated with hydrogen at 60° C. The catalyst is filtered off, the solution is evaporated down. The residue is chromatographed on silica gel and eluted with methanol. The desired fractions are evaporated down, triturated with ether, suction filtered and dried.

reactant | 4-{[6-(1-carboxy-cyclopropyl)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-N-hydroxybenzamidine | 0.76 mmol, 300 mg | C(=O)(O)C1(CC1)C=1C=C2N=C(C(N(C2=CC1)C)=O)CC1=CC=C(C(=N)NO)C=C1 | C21H20N4O4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on activated charcoal | 400 mg | [Pd] | Pd
product | 4-{[6-(1-carboxy-cyclopropyl)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-benzamidine | C(=O)(O)C1(CC1)C=1C=C2N=C(C(N(C2=CC1)C)=O)CC1=CC=C(C(=N)N)C=C1 | C21H20N4O3
